US05204478
An improved process for the preparation of 2,6-dichloro-5-fluoronicotinoyl chloride is described where a 2,6-dihydroxy-5-fluoronicotinic acid ester is converted in one step using phosphorus oxychloride and a lithium reagent to 2,6-dichloro-5-fluoronicotinoyl chloride and subsequent basic hydrolysis affords 2,6-dichloro-5-fluoronicotinic acid.

reactant | 2,6-dichloro-5-fluoronicotinoyl chloride | ClC1=C(C(=O)Cl)C=C(C(=N1)Cl)F | C6HCl3FNO
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | lithium | [Li] | Li
product | 2,6-dichloro-5-fluoronicotinic acid | ClC1=C(C(=O)O)C=C(C(=N1)Cl)F | C6H2Cl2FNO2
